US06340678B1
To a solution of 260 mg of (Z)-[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]acetic acid in 20 ml of tetrahydrofuran were added 118 mg of 1-hydroxybenzotriazole, 167 mg of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide monohydro-chloride, 600 mg of (dibenzyl) [2-(4-piperidyl)ethyl]amine and 310 μl of triethylamine, and the mixture was stirred at room temperature for 18 hours. To the reaction solution was added a saturated aqueous solution of sodium bicarbonate, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of NaCl and dried over magnesium sulfate, and the solvent was evaporated therefrom. The resulting residue (385 mg) was dissolved in 10 ml of dichloroethane, 64 μl of 1-chloroethyl chloroformate was added thereto, and the mixture was stirred with heating under refluxing for 4.5 hours. The solvent was evaporated, 10 ml of methanol was added to the residue, and the mixture was stirred with heating under refluxing for 4.5 hours. After cooling to room temperature, a saturated aqueous solution of sodium bicarbonate was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of NaCl and dried over anhydrous magnesium sulfate, and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (eluting with chloroform-methanol). The resulting residue (22 mg) was dissolved in 0.1 ml of ethyl acetate, then 30 μl of a 4N HCl/ethyl acetate solution was added to the solution, and the mixture was stirred at room temperature. The solvent was evaporated therefrom, and the resulting solid was collected by filtration to give 14 mg of (Z)-4,4-difluoro-5-(2-{4-[2-(benzylamino)ethyl]piperidino)-2-oxoethylidene)-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepine monohydrochloride as a colorless powder.

reactant | (Z)-[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]acetic acid | 260 mg | FC\1(CCN(C2=C(/C1=C/C(=O)O)C=CC=C2)C(=O)C2=C(N=C(S2)C2=CC=CC=C2)C)F | C23H18F2N2O3S
reactant | 1-hydroxybenzotriazole | 118 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide monohydro-chloride | 167 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | (dibenzyl) [2-(4-piperidyl)ethyl]amine | 600 mg | C(C1=CC=CC=C1)N(CCC1CCNCC1)CC1=CC=CC=C1 | C21H28N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 310 μl | C(C)N(CC)CC | C6H15N
product | (Z)-4,4-difluoro-5-(2-{4-[2-(benzylamino)ethyl]piperidino)-2-oxoethylidene)-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepine monohydrochloride | 14 mg | Cl.FC\1(CCN(C2=C(/C1=C/C(=O)N1CCC(CC1)CCNCC1=CC=CC=C1)C=CC=C2)C(=O)C2=C(N=C(S2)C2=CC=CC=C2)C)F | InChI=1S/C37H38F2N4O2S.ClH/c1-26-34(46-35(41-26)29-12-6-3-7-13-29)36(45)43-23-19-37(38,39)31(30-14-8-9-15-32(30)43)24-33(44)42-21-17-27(18-22-42)16-20-40-25-28-10-4-2-5-11-28;/h2-15,24,27,40H,16-23,25H2,1H3;1H/b31-24-;
